US08138176B2
b1) 4-[1-Hydroxy-2-(1-trityl-1H-imidazol-4-ylmethoxy)ethyl]benzonitrile
Sodium borohydride is added in portions to a solution of 1 mmol of 4-[2-(1-trityl-1H-imidazol-4-ylmethoxy)acetyl]benzonitrile in 12 ml of ethanol at 0° C. The reaction solution is stirred at room temperature for 12 hours, then poured into ice-water and stirred for 15 minutes. The mixture is adjusted to pH 5 by adding glacial acetic acid and extracted with tert-butyl methyl ether (2×). The combined organic phases are washed with water and brine, dried over sodium sulphate and evaporated. The title compound is identified from the residue on the basis of the Rf by flash chromatography (SiO2 60 F).

reactant | Sodium borohydride | [BH4-].[Na+]
reactant | 4-[2-(1-trityl-1H-imidazol-4-ylmethoxy)acetyl]benzonitrile | 1 mmol | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)COCC(=O)C1=CC=C(C#N)C=C1 | C32H25N3O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | 4-[1-Hydroxy-2-(1-trityl-1H-imidazol-4-ylmethoxy)ethyl]benzonitrile | OC(COCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C#N)C=C1 | C32H27N3O2
